US04367233
A. α-(2-Benzothiazolylthio)benzene acetic acid, hydrobromide
A solution of 16.7 g (0.10 m) 2-mercaptobenzothiazole and 21.5 g (0.10 m) α-bromo-α-phenylacetic acid in acetone is heated to reflux for 5 hours and the solvent is then removed. The residual oil is triturated in acetone and 31 g of solid collected. The compound melts at 192°-4° C.

reactant | 2-mercaptobenzothiazole | 16.7 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | α-bromo-α-phenylacetic acid | 21.5 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | acetone | CC(=O)C | C3H6O
product | α-(2-Benzothiazolylthio)benzene acetic acid, hydrobromide | Br.S1C(=NC2=C1C=CC=C2)SC(C(=O)O)C2=CC=CC=C2 | InChI=1S/C15H11NO2S2.BrH/c17-14(18)13(10-6-2-1-3-7-10)20-15-16-11-8-4-5-9-12(11)19-15;/h1-9,13H,(H,17,18);1H
